US07189741B2
A. Preparation of 4-{1-[3-(benzo[1,3]dioxol-5-yloxy)-propyl]-1H-indol-3-yl}-piperidine-1-carboxylic acid ethyl ester
This compound was prepared following the procedure described in example 13 (part B) at room temperature for 15 hours, starting with 2.2 g (8.1 mmol) of 4-(1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester and 2.68 g (10 mmol) of 5-(3-bromo-propoxy)-benzo[1,3]dioxole. After standard work-up, 3.8 g (100% of yield) of the expected product was obtained.

reactant | 4-(1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester | 8.1 mmol, 2.2 g | C(C)OC(=O)N1CCC(CC1)C1=CNC2=CC=CC=C12 | C16H20N2O2
reactant | 5-(3-bromo-propoxy)-benzo[1,3]dioxole | 10 mmol, 2.68 g | BrCCCOC1=CC2=C(OCO2)C=C1 | C10H11BrO3
product | 4-{1-[3-(benzo[1,3]dioxol-5-yloxy)-propyl]-1H-indol-3-yl}-piperidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCC(CC1)C1=CN(C2=CC=CC=C12)CCCOC1=CC2=C(OCO2)C=C1 | C26H30N2O5
